US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-ethoxycarbonylmethyl-N-(2-methylphenyl)benzamide (100 mg) in ethanol (5 ml) was added sodium borohydride (37 mg) at 0° C. and the mixture was stirred for 2 hours at ambient temperature. Since the reaction was not completed and it was so slow, sodium borohydride (220 mg) was added to the mixture at 0° C. and stirred overnight. The reaction mixture was neutralized with 1N hydrochloric acid and diluted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. Filtering and the removal of solvents afforded 4-(4′-methylbiphenyl-2-carboxamido)-N-(2-hydroxyethyl)-N-(2-methylphenyl)benzamide (70 mg) as a colorless prisms.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-ethoxycarbonylmethyl-N-(2-methylphenyl)benzamide | 100 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C)CC(=O)OCC)C=C1 | C32H30N2O4
reactant | sodium borohydride | 37 mg | [BH4-].[Na+]
reactant | sodium borohydride | 220 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-(2-hydroxyethyl)-N-(2-methylphenyl)benzamide | 70 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C)CCO)C=C1 | C30H28N2O3
